US08802679B2
tert-Butyl {2-[(3-bromobenzyl)amino]-2-oxoethyl}carbamate (350 mg) was dissolved in DME (3 ml) and water (1.5 ml), and 1,4-benzodioxane-6-boronic acid (194 mg), sodium carbonate (313 mg), and tetrakis(triphenylphosphine)palladium (34 mg) were added thereto, followed by stirring at 80° C. for 1 day. The reaction mixture was concentrated under reduced pressure, and a saturated aqueous sodium hydrogen carbonate solution was added thereto, followed by extraction with CHCl3. The organic layer was dried over Na2SO4 and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (CHCl3/MeOH). The product was dissolved in MeOH (3.5 ml), and 4 M hydrogen chloride/EtOAc (2.0 ml) was added thereto, followed by stirring at room temperature for one day. The reaction mixture was concentrated under reduced pressure, and a saturated aqueous sodium hydrogen carbonate solution was added thereto, followed by extraction with CHCl3. The organic layer was dried over Na2SO4 and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (CHCl3/MeOH). The product was dissolved in EtOH (3 ml), and L-tartaric acid (126 mg) was added thereto, followed by stirring at room temperature for 2 hours. The precipitated solid was collected by filtration to obtain N-[3-(2,3-dihydro-1,4-benzodioxin-6-yl)benzyl]-N-methylglycinamide L-tartrate (453 mg).

reactant | tert-Butyl {2-[(3-bromobenzyl)amino]-2-oxoethyl}carbamate | 350 mg | BrC=1C=C(CNC(CNC(OC(C)(C)C)=O)=O)C=CC1 | C14H19BrN2O3
reactant | 1,4-benzodioxane-6-boronic acid | 194 mg | O1CCOC2=C1C=CC(=C2)B(O)O | C8H9BO4
reactant | sodium carbonate | 313 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | DME | 3 ml | COCCOC | C4H10O2
solvent | water | 1.5 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 34 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[3-(2,3-dihydro-1,4-benzodioxin-6-yl)benzyl]-N-methylglycinamide L-tartrate | 453 mg | C(=O)(O)[C@H](O)[C@@H](O)C(=O)O.O1CCOC2=C1C=CC(=C2)C=2C=C(CN(C(CN)=O)C)C=CC2 | InChI=1S/C18H20N2O3.C4H6O6/c1-20(18(21)11-19)12-13-3-2-4-14(9-13)15-5-6-16-17(10-15)23-8-7-22-16;5-1(3(7)8)2(6)4(9)10/h2-6,9-10H,7-8,11-12,19H2,1H3;1-2,5-6H,(H,7,8)(H,9,10)/t;1-,2-/m.1/s1
